US07678801B2
3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(2,2-dimethylpropyl)-4-methylbenzamide
To the compound 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid (40 mg, 0.074 mmol) in methylene chloride (2 mL) were added HBTU (30 mg, 0.079 mmol) and (2,2-dimethylpropyl)amine (0.045 mL, 0.37 mmol). The mixture was stirred at rt overnight. Solvent was removed by rotovap. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (39 mg, 86%). LC-MS m/z 591 (M+H)+.

reactant | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylbenzoic acid | 0.074 mmol, 40 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)O)C=CC2C)CC | C28H29F2N5O3
reactant | HBTU | 0.079 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2,2-dimethylpropyl)amine | 0.37 mmol, 0.045 mL | CC(CN)(C)C | C5H13N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-N-(2,2-dimethylpropyl)-4-methylbenzamide | 39 mg, 86% | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C=2C=C(C(=O)NCC(C)(C)C)C=CC2C)CC | C33H40F2N6O2
